US04101658
To a solution of diphenylmethyl 3-formyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate (155 mg) in tetrahydrofuran (15 ml) is added a solution of (sulfolane-3-yl) hydrazine (70 mg) and 1.5 equivalents of hydrochloric acid in water (3 ml), and the mixture is kept at room temperature 5 hours. The crystals obtained by concentration of the reaction mixture are collected by filtration, washed with ether and water, and dried to give diphenylmethyl 3-(sulfolan-3-ylhydrazono)methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate (142 mg). m.p. 117°-125° C. Yield: 76%. IR: νmaxNujol 3275, 1785, 1715, 1675, 1530cm-1.

reactant | diphenylmethyl 3-formyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate | 155 mg | C(=O)C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C27H22N2O5S2
reactant | (sulfolane-3-yl) hydrazine | 70 mg | S1(=O)(=O)CC(CC1)NN | C4H10N2O2S
reactant | hydrochloric acid | 1.5 equivalents | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | diphenylmethyl 3-(sulfolan-3-ylhydrazono)methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate | 142 mg, Yield: 76% | S1(=O)(=O)CC(CC1)NN=CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C31H30N4O6S3
